US07338959B2
A. Tert-Butyl-(1-methyl-5-nitro-1H-benzoimidazol-2-yl)-amine
N1-methyl-4-nitro-benzene-1,2-diamine (2.0 g, 12.0 mmol) and tert-butyl isothiocyanate (1.67 ml, 13.2 mmol) were coupled using the procedure of intermediate example one part B to give the title compound as a yellow solid. 1H NMR (300 MHz, d6-DMSO) d 8.01 (d, J=2.1 Hz, 1H), 7.90 (dd, J=8.7 and 2.1 Hz, 1H), 7.32 (d, J=8.7 Hz, 1H), 6.41 (s, 1H), 3.58 (s, 3H), 1.48 (s, 9H) ppm.

reactant | N1-methyl-4-nitro-benzene-1,2-diamine | 12.0 mmol, 2.0 g | CNC=1C(=CC(=CC1)[N+](=O)[O-])N | C7H9N3O2
reactant | tert-butyl isothiocyanate | 13.2 mmol, 1.67 ml | C(C)(C)(C)N=C=S | C5H9NS
product | Tert-Butyl-(1-methyl-5-nitro-1H-benzoimidazol-2-yl)-amine | C(C)(C)(C)NC1=NC2=C(N1C)C=CC(=C2)[N+](=O)[O-] | C12H16N4O2
